US07175871B2
Decanal dimethyl acetal was prepared by reacting 796 g decanal with 763.5 g trimethyl orthoformate in the presence of 1.97 g p-toluene sulfonic acid dissolved in 6.07 g methanol at a temperature of 45° C. for a period of time of 0.33 hours. The resulting product was washed with an aqueous 2.5% sodium bicarbonate solution, and then with water; dried over anhydrous sodium sulfate; filtered through CELITE®/sodium sulfate and distilled at 92–98° C. at 4.36–4.97 mm Hg. Then, into a 2 liter reaction flask equipped with stirrer, thermometer, heating mantle, addition funnel, vacuum apparatus, and reflux condenser the following ingredients were added at 17° C.:

reactant | decanal | 796 g | C(CCCCCCCCC)=O | C10H20O
reactant | trimethyl orthoformate | 763.5 g | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 1.97 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 6.07 g | CO | CH4O
product | Decanal dimethyl acetal | COC(CCCCCCCCC)OC | C12H26O2
